### PR TITLE
[Merged by Bors] - feat(Order/Interval/Set/Disjoint): generalize `⋃ x ∈ s, Iic x = Iic a` from `LinearOrder` to `Preorder`

### PR DESCRIPTION
**Pull request by SnirBroshi**
and add an `IsLeast` version.

---

(yes more stuff here could be `to_dual`ized, but that's a separate issue)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Interval/Set/Disjoint.lean [hunk 1]
```diff
@@ -170,6 +170,20 @@ end Set
 
 section UnionIxx
 
+section Preorder
+
+variable [Preorder α] {s : Set α} {a : α}
+
+@[to_dual]
+theorem IsGLB.biUnion_Ici_eq_Ici (a_glb : IsGLB s a) (a_mem : a ∈ s) : ⋃ x ∈ s, Ici x = Ici a := by
```
Comment (themathqueen) [inline Mathlib/Order/Interval/Set/Disjoint.lean]: While we're at it, maybe give a version of this lemma for `IsLeast s a`?
Then you can use that lemma here.

Comment (SnirBroshi) [reply Mathlib/Order/Interval/Set/Disjoint.lean]: Wdym? `IsLeast` implies `IsGLB`, so isn't the current version the most general?

Comment (SnirBroshi) [reply Mathlib/Order/Interval/Set/Disjoint.lean]: nvm I got it, we just don't have the iff for some reason

Comment (themathqueen) [reply Mathlib/Order/Interval/Set/Disjoint.lean]: I was thinking of having the `IsLeast` before, and then the proof of `IsGLB` could be
`IsLeast.biUnion_Ici_eq_Ici ⟨a_mem, a_glb.1⟩`. `IsGLB` with `a \in s` implies `IsLeast`.

But yours works just as well.

File: Mathlib/Order/Interval/Set/Disjoint.lean [hunk 2]
```diff
@@ -170,6 +170,23 @@ end Set
 
 section UnionIxx
 
+section Preorder
+
+variable [Preorder α] {s : Set α} {a : α}
+
+@[to_dual]
+theorem IsLeast.biUnion_Ici_eq_Ici (h : IsLeast s a) : ⋃ x ∈ s, Ici x = Ici a := by
```
Comment (themathqueen) [inline Mathlib/Order/Interval/Set/Disjoint.lean:178]: can you show the iff version in a partial order?

File: Mathlib/Order/Interval/Set/Disjoint.lean [hunk 3]
```diff
@@ -170,6 +170,37 @@ end Set
...
+section PartialOrder
+
+variable [PartialOrder α] {s : Set α} {a : α}
+
+@[to_dual]
+theorem biUnion_Ici_eq_Ici_iff : ⋃ x ∈ s, Ici x = Ici a ↔ IsLeast s a := by
+  refine ⟨fun h ↦ ?_, IsLeast.biUnion_Ici_eq_Ici⟩
+  have hleast := h ▸ isLeast_Ici
+  have hlb : a ∈ lowerBounds s := fun b hbs ↦ hleast.right <| mem_iUnion₂_of_mem hbs self_mem_Ici
+  have ⟨b, hbs, hba⟩ := Set.mem_iUnion₂.mp hleast.left
```
Comment (themathqueen) [inline Mathlib/Order/Interval/Set/Disjoint.lean:197]:
```suggestion
  have hlb : a ∈ lowerBounds s := fun b hbs ↦ h.subset (mem_biUnion hbs le_rfl)
  have ⟨b, hbs, hba⟩ := Set.mem_iUnion₂.mp (h.ge self_mem_Ici)
```

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/Order/Bounds/Basic.lean [hunk 4]
```diff
@@ -268,6 +268,10 @@ theorem Set.Nonempty.bddAbove_lowerBounds (hs : s.Nonempty) : BddAbove (lowerBou
 theorem IsLeast.isGLB (h : IsLeast s a) : IsGLB s a :=
   ⟨h.2, fun _ hb => hb h.1⟩
 
+@[to_dual]
+theorem isLeast_iff_isGLB_and_mem : IsLeast s a ↔ IsGLB s a ∧ a ∈ s :=
+  ⟨fun h ↦ ⟨h.isGLB, h.left⟩, fun ⟨h, hmem⟩ ↦ ⟨hmem, h.left⟩⟩
```
Comment (j-loreaux) [inline Mathlib/Order/Bounds/Basic.lean]: You could have `IsGLB.isLeast` of type `(h : IsGLB s a) (ha : a ∈ s) : IsLeast s a` as well.

File: Mathlib/Order/Interval/Set/Disjoint.lean [hunk 5]
```diff
@@ -170,6 +170,36 @@ end Set
...
+variable [Preorder α] {s : Set α} {a : α}
+
+@[to_dual]
+theorem IsLeast.biUnion_Ici_eq_Ici (h : IsLeast s a) : ⋃ x ∈ s, Ici x = Ici a := by
+  refine (iUnion₂_subset fun x hx ↦ ?_).antisymm fun x hx ↦ mem_iUnion₂.mpr ⟨a, h.left, hx⟩
+  exact Ici_subset_Ici.mpr <| mem_lowerBounds.mp h.right x hx
+
+@[to_dual]
+theorem IsGLB.biUnion_Ici_eq_Ici (a_glb : IsGLB s a) (a_mem : a ∈ s) : ⋃ x ∈ s, Ici x = Ici a :=
+  IsLeast.biUnion_Ici_eq_Ici ⟨a_mem, a_glb.left⟩
```
Comment (j-loreaux) [inline Mathlib/Order/Interval/Set/Disjoint.lean]: With my other suggestion (and even without it to be honest), this lemma seems unnecessary. My lemma has the advantage that you can use dot notation nicely.

Of course, that would mean deprecating this since it was pre-existing.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
